US08871790B2
Compound 118.10. (3-Amino-4-methylphenyl)(6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexan-3-yl)methanone
A mixture of 6-(4-Methoxyphenyl)-3-azabicyclo[3.1.0]hexane (0.124 g, 0.82 mmol), 3-amino-4-methylbenzoic acid (0.155 g, 0.82 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDCI, 0.172 g, 0.90 mmol), 1-hydroxybenzotriazole (˜20% H2O, 0.122 g, 0.90 mmol) and diisopropylethylamine (0.71 mL, 4.1 mmol) in DMF (3 mL) was stirred at room temperature overnight. The reaction mixture was poured into saturated aqueous NaHCO3 and extracted with EtOAc (3×). The combined organic extract was dried over MgSO4, filtered and concentrated. The residue was purified by flash column chromatography with EtOAc in hexane (60%, then 100%) to give the title compound as a white foam (0.15 g, 57% yield).

reactant | 6-(4-Methoxyphenyl)-3-azabicyclo[3.1.0]hexane | 0.82 mmol, 0.124 g | COC1=CC=C(C=C1)C1C2CNCC12 | C12H15NO
reactant | 3-amino-4-methylbenzoic acid | 0.82 mmol, 0.155 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.90 mmol, 0.172 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.90 mmol, 0.122 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 4.1 mmol, 0.71 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (3-Amino-4-methylphenyl)(6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexan-3-yl)methanone | 0.15 g, 57% yield | NC=1C=C(C=CC1C)C(=O)N1CC2C(C2C1)C1=CC=C(C=C1)OC | C20H22N2O2
